US07718693B2
A solution of 1,1-dimethylethyl N-[(1R,2R,5R)-2-hydroxy-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylidene]glycinate (11.05 g, 39.3 mmol) in anhydrous tetrahydrofuran (100 ml) was cooled to −30° C. and treated with a 3M solution of methylmagnesium bromide in diethyl ether (17.1 ml, 51.1 mmol). 1,8-Diazabicyclo[5.4.0]undec-7-ene (7.78 g, 51.1 mmol) was then added and the mixture was stirred for an additional 20 minutes at −30° C. The mixture was then treated with ethyl crotonate and stirring continued for 1 hr. The mixture was quenched by addition of saturated aqueous ammonium chloride solution (35 ml) and then extracted with ethyl acetate (3×100 ml). The combined organic extracts were dried over sodium sulphate, filtered and evaporated to give a yellow oil. This material was purified by automated flash silica-gel column chromatography (using a Biotage SP4), eluting with a gradient of 0-20% (over 5 column volumes) then 20-35% (over 14 column volumes) ethyl acetate in hexane, to give 1-(1,1-dimethylethyl) 5-ethyl N-[(1R,2R,5R)-2-hydroxy-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylidene]-3-methylglutamate (4.2 g) which was used in the next step.

reactant | 1,1-dimethylethyl N-[(1R,2R,5R)-2-hydroxy-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylidene]glycinate | 39.3 mmol, 11.05 g | O[C@@]1([C@H]2C([C@@H](CC1=NCC(=O)OC(C)(C)C)C2)(C)C)C | C16H27NO3
reactant | methylmagnesium bromide | C[Mg]Br
reactant | diethyl ether | 51.1 mmol, 17.1 ml | C(C)OCC | C4H10O
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 51.1 mmol, 7.78 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl crotonate | C(\C=C\C)(=O)OCC | C6H10O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(1,1-dimethylethyl) 5-ethyl N-[(1R,2R,5R)-2-hydroxy-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylidene]-3-methylglutamate | 4.2 g | O[C@@]1([C@H]2C([C@@H](CC1=N[C@@H](C(CC(=O)OCC)C)C(=O)OC(C)(C)C)C2)(C)C)C | C22H37NO5
